US04778796
A mixture of 6.7 g of ethyl 5-fluoronicotinate (cf. U.S. Pat. No. 3,637,714) and 6.0 g of hydrazine monohydrate is stirred at 110° C. for 2 hours. After cooling, 30 ml of cold water is added, and the precipitate is collected and washed with cold water to give 5.1 g of crude 5-fluoro-3-pyridinecarbohydrazide. To a stirred mixture of 5.1 g of the hydrazide in 40 ml of pyridine, 6.9 g of p-toluenesulfonyl chloride is added slowly. After the mixture becomes a clear solution, the remaining pyridine is distilled off under reduced pressure, and 30 ml of water is added. The resulting precipitate is collected and washed with water to give 6.6 g of the crude p-toluenesulfonyl derivative. The product is added to 40 ml of ethylene glycol at 120° C., and to the mixture is added with stirring 6.5 g of anhydrous sodium carbonate. The reaction mixture is stirred at 160° C. for 10 minutes and cooled, and 50 ml of water is added. The mixture is extracted with three 100-ml portions of diethyl ether. The combined extracts are dried over magnesium sulfate and concentrated to give 1.1 g of crude 5-fluoro-3-pyridinecarbaldehyde.

reactant | ethyl 5-fluoronicotinate | 6.7 g | FC=1C=NC=C(C(=O)OCC)C1 | C8H8FNO2
reactant | hydrazine monohydrate | 6.0 g | O.NN
solvent | water | 30 ml | O | H2O
product | 5-fluoro-3-pyridinecarbohydrazide | 5.1 g | FC=1C=C(C=NC1)C(=O)NN | C6H6FN3O
